US04837236
N-[3-(m-Phenoxyphenyl)-2-methylpropyl]-3-methoxymethyl-1,2,5,6-tetrahydropyridine (0.2 g) was dissolved in ethanol (20 ml), followed by addition of acetic acid (1 ml) thereto. To the resultant mixture, 5% palladium-carbon (0.2 g) was added at room temperature under nitrogen stream, and then hydrogenation was carried out under nitrogen stream. After absorption of hydrogen was completed, the catalyst was removed by filtration, and the filtrate was combined with 15% aqueous sodium hydroxide solution (20 ml) and extracted with diethyl ether. The ether extract was washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography to give N-[3-(m-phenoxyphenyl)-2-methylpropyl]-3-methoxymethylpiperidine (0.19 g).

reactant | N-[3-(m-Phenoxyphenyl)-2-methylpropyl]-3-methoxymethyl-1,2,5,6-tetrahydropyridine | 0.2 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)CC(CN1CC(=CCC1)COC)C | C23H29NO2
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.2 g | [C].[Pd]
product | N-[3-(m-phenoxyphenyl)-2-methylpropyl]-3-methoxymethylpiperidine | 0.19 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)CC(CN1CC(CCC1)COC)C | C23H31NO2
